US07132443B2
A. 1-[4-(Trifluoromethyl)phenyl]cyclopentanecarbonitrile.
To a stirred solution of 4-fluorobenzotrifluoride (5.0 g, 30.47 mmol) in toluene (40 mL) was added cyclopentanecarbonitrile (10.5 mL, 100.55 mmol) followed by a solution of 0.5 M KHMDS in toluene (92 mL, 45.71 mmol). The reaction mixture was heated to 70° C. and stirred for 14 hours. After cooling to RT, the reaction mixture was quenched with 1 M HCl until pH<7. The layers were separated and the organic layer was washed with saturated NaHCO3, water, brine, dried over MgSO4, filtered, and concentrated in vacuo. Purification via silica gel chromatography (6:1 hexanes:EtOAc) afforded 7.53 g of a mixture of compound A and residual cyclopentanecarbonitrile. Because these two compounds were not easily separable by chromatography, this mixture was carried directly to the next step.

reactant | 4-fluorobenzotrifluoride | 30.47 mmol, 5.0 g | FC1=CC=C(C=C1)C(F)(F)F | C7H4F4
reactant | cyclopentanecarbonitrile | 100.55 mmol, 10.5 mL | C1(CCCC1)C#N | C6H9N
reactant | KHMDS | 0.5 M | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 45.71 mmol, 92 mL | C1(=CC=CC=C1)C | C7H8
product | 1-[4-(Trifluoromethyl)phenyl]cyclopentanecarbonitrile | 7.53 g | FC(C1=CC=C(C=C1)C1(CCCC1)C#N)(F)F | C13H12F3N
